US09333272B2
2-Nitrocyclohexanone (6.77 g; 47.3 mmol) was dissolved in dried MeOH (150 mL) and a two fold excess by weight of Amberlyst® A21 (13.5 g) was added. The mixture was refluxed under nitrogen for 1.5 h then filtered and evaporated to give 6-nitrohexanoic acid methyl ester (7.72 g; 42 mmol). Yield: 89%.

reactant | 2-Nitrocyclohexanone | 47.3 mmol, 6.77 g | [N+](=O)([O-])C1C(CCCC1)=O | C6H9NO3
reactant | MeOH | 150 mL | CO | CH4O
product | 6-nitrohexanoic acid methyl ester | 42 mmol, 7.72 g, Yield: 89% | COC(CCCCC[N+](=O)[O-])=O | C7H13NO4
